US08420678B2
A mixture of 1-phenyldodecane (7.5 g, 30.5 mmol) and concentrated H2SO4 (8.4 mL) was stirred vigorously at 90° C. for 1 h, cooled to room temperature, and then gradually poured with stirring into 10% aqueous KOH solution (175 mL). The resulting white precipitate was collected by filtration, washed with cold water (40 mL) and dried to give potassium 4-dodecylbenzene sulfonate (10.6 g, 29.1 mmol, 84%). This salt (10.0 g, 27.5 mmol) and POCl3 (4.2 g, 27.4 mmol) were stirred at room temperature and gradually heated to 170° C. The hot reaction mixture was poured into cold water and extracted with CHCl2. The organic layer was washed with water, dried over anhydrous Na2SO4, and filtered. Evaporation of the volatiles yielded p-dodecylbenzenesulfonyl chloride as a pale yellow liquid (9.2 g, 97%) which eventually became crystalline, mp 33° C.; 1H NMR (300 MHz, CDCl3) δ 0.88 (t, 3H, J=6.5), 1.20-1.38 (m, 18H), 1.60-1.68 (m, 2H), 2.72 (t, 2H, J=7.5 Hz), 7.40 (d, 2H, J=8.4 Hz), 7.79 (d, 2H, J=8.4 Hz); 13C NMR (75 MHz, CDCl3) δ 14.1, 22.6, 29.1, 29.3, 29.3, 29.5, 29.6, 30.9, 31.9, 36.0, 127.0, 129.6, 141.7, 151.6.

reactant | 1-phenyldodecane | 30.5 mmol, 7.5 g | C1(=CC=CC=C1)CCCCCCCCCCCC | C18H30
reactant | H2SO4 | 8.4 mL | OS(=O)(=O)O | H2O4S
reactant | KOH | 175 mL | [OH-].[K+]
product | potassium 4-dodecylbenzene sulfonate | 29.1 mmol, 10.6 g, 84% | C(CCCCCCCCCCC)C1=CC=C(C=C1)S(=O)(=O)[O-].[K+] | InChI=1S/C18H30O3S.K/c1-2-3-4-5-6-7-8-9-10-11-12-17-13-15-18(16-14-17)22(19,20)21;/h13-16H,2-12H2,1H3,(H,19,20,21);/q;+1/p-1
